US06353017B1
A solution of N-[4-(3-methoxycarbonyl-1H-pyrazol-1-yl)-1(S)-carboxybutyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide (0.3 g, 0.5 mmol)) and N-methylmorpholine (0.17 mL, 1.5 mmol) in CH2Cl2 (50 mL) is cooled to −10° C., and isobutyl chloroformate (0.065 mL, 0.5 mmol) is added dropwise over 10 minutes. After stirring for 15 minutes, ammnonia gas is bubbled into the solution at a moderately vigorous rate for 15 minutes. The solution is then warmed to room temperature over 30 min. CH2Cl2 is evaporated, the residue is treated with water (30 mL). The suspension is adjusted to pH=7 with 1 N HCl, and filtered. The solid is washed with water (50 mL) and dried in vacuo to yield N-[4-(3-methoxycarbonyl-1H-pyrazol-1-yl)-1(S)-(aminocarbonyl)-butyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide.

reactant | N-[4-(3-methoxycarbonyl-1H-pyrazol-1-yl)-1(S)-carboxybutyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide | 0.5 mmol, 0.3 g | COC(=O)C1=NN(C=C1)CCC[C@@H](C(=O)O)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C34H36N4O6
reactant | N-methylmorpholine | 1.5 mmol, 0.17 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.5 mmol, 0.065 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-methoxycarbonyl-1H-pyrazol-1-yl)-1(S)-(aminocarbonyl)-butyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide | COC(=O)C1=NN(C=C1)CCC[C@@H](C(=O)N)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C34H37N5O5
